US08138189B2
Step 6: 4-[3-Chloro-4-(3,3,3-trifluoro-2-hydroxy-2-isoquinolin-5-yl-1-methyl-propyl)-phenoxymethyl]-benzoic acid ethyl ester
To a solution of 3-chloro-4-(3,3,3-trifluoro-2-hydroxy-2-isoquinolin-5-yl-1-methyl -propyl)-phenol (40 mg) in N,N-dimethylacetamide (1 ml) were added ethyl-4-(bromomethyl)benzoate (18 mg) and cesium carbonate (23 mg). The mixture was stirred for 1 h at room temperature. Ice water was added and the mixture was extracted with EtOAc. The organic phase was washed with water and dried (MgSO4). The product was purified by chromatography (SiO2, cyclohexane/EtOAc 1:0=>0:1) to give the title compound (28 mg) as an off-white solid. MS (m/e)=544.2 [M+H+].

reactant | 3-chloro-4-(3,3,3-trifluoro-2-hydroxy-2-isoquinolin-5-yl-1-methyl -propyl)-phenol | 40 mg | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C1=C2C=CN=CC2=CC=C1)O)C)O | C19H15ClF3NO2
reactant | ethyl-4-(bromomethyl)benzoate | 18 mg | C(C)OC(C1=CC=C(C=C1)CBr)=O | C10H11BrO2
reactant | cesium carbonate | 23 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
product | 4-[3-Chloro-4-(3,3,3-trifluoro-2-hydroxy-2-isoquinolin-5-yl-1-methyl-propyl)-phenoxymethyl]-benzoic acid ethyl ester | 28 mg | C(C)OC(C1=CC=C(C=C1)COC1=CC(=C(C=C1)C(C(C(F)(F)F)(C1=C2C=CN=CC2=CC=C1)O)C)Cl)=O | C29H25ClF3NO4
